* Post-layout testbench for ota_5t (PEX, physical units)
.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.include /tmp/opencode/mbg_ota_5t/ota_5t/ota_5t.pex.phys.spice

Vvdd vdd 0 3.3
Vvss vss 0 0
Ibias vdd vbias 50u
XMref vbias vbias vss vss nfet_03v3 L=1u W=4u nf=4
* PEX-port order: vdd vss vb out inm inp
X1   vdd vss vbias out inm inp ota_5t

Vcm  inmid 0 1.65
Vin_p inp inmid DC 0 AC 0.5 PULSE(0 1m 50n 1n 1n 250n 500n)
Vin_n inm inmid DC 0 AC -0.5
CL   out vss 1p

.control
set appendwrite

* ===== OP =====
op
print v(out) v(vbias) i(vvdd)
write /tmp/opencode/mbg_ota_5t/post_op.raw all

* ===== AC =====
ac dec 50 10 1000meg
let av_db = vdb(out)
let phase = (180/pi)*vp(out)
meas ac AV0  FIND vdb(out) AT=10
meas ac GBW when vdb(out)=0 fall=1
meas ac PM  FIND phase WHEN vdb(out)=0 fall=1
print AV0 GBW PM
wrdata /tmp/opencode/mbg_ota_5t/post_ac.dat v(out) vdb(out) vp(out)

* ===== DC sweep =====
dc Vin_p -50m 50m 1m
meas dc VOUT_v0 FIND v(out) AT=0
wrdata /tmp/opencode/mbg_ota_5t/post_dc.dat v(out)

* ===== TRAN =====
alter Vin_p AC=0
tran 5n 1u 0
wrdata /tmp/opencode/mbg_ota_5t/post_tran.dat v(out) v(inp) v(inm)

quit
.endc
.end
