.lib "/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical
.subckt vref_1v2 vdd vss vref
XM3  d1   d1   vdd  vdd  pfet_03v3 L=1.25u W=4u nf=1
XM4  d2   d1   vdd  vdd  pfet_03v3 L=1.25u W=4u nf=1
XM5  vref d1   vdd  vdd  pfet_03v3 L=1.25u W=4u nf=1
XM1  d1   d1   vss  vss  nfet_03v3 L=1.25u W=4u nf=1
XM2  d2   d1   src2 vss  nfet_03v3 L=1.25u W=4u nf=1
XM_r src2 vdd  vss  vss  nfet_03v3 L=1.25u W=4u nf=1
XM6  vref vref vss  vss  nfet_03v3 L=1u    W=4u nf=1
.ends
