* NGSPICE file created from strongarm.ext - technology: gf180mcuD

.subckt strongarm vdd vss outp outn inp inn clk
X0 a_2430_1719# clk vdd vdd pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X1 a_2430_1719# inp a_6725_n281# vss nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X2 a_2430_1719# clk vdd vdd pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X3 a_6725_n281# clk vss vss nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X4 outp clk vdd vdd pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X5 a_2430_1719# inn a_6725_n281# vss nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X6 outn clk vdd vdd pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X7 outn outp vdd vdd pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X8 outp outn vdd vdd pfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X9 outp outn a_2430_1719# vss nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X10 outn outp a_2430_1719# vss nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
.ends

